US09163040B2
1-chloroethyl cyclohexyl carbonate was resolved by HPLC on a preparative Chiralpak ID column using Heptane/TBME 98:2 and a polarimetric detector. From this resolution, Peak 2 was determined to have 98% ee on a Chiralpak ID column and was used in the subsequent step. To a solution of 1-chloroethyl cyclohexyl carbonate (second-eluting isomer from a Chiralpak ID column Heptane/TBME 98:2) (1.75 g, 8.47 mmol) and (R)-3-((tert-butoxycarbonyl)amino)-4-(5′-chloro-2′-fluoro-[1,1′-biphenyl]-4-yl)butanoic acid (1.5 g, 3.68 mmol) in 35 mL anhydrous DMF at 0° C. was added cesium carbonate (1.2 g, 3.68 mmol). After the reaction mixture was stirred for 5 min, the ice-bath was removed and the reaction mixture was stirred at 23° C. for 4.5 hours. LCMS showed that the reaction was approximately 40% complete. The reaction mixture was stirred approximately 18 hours, at which point LCMS showed the reaction was approximately 95% complete. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous ammonium chloride (pH of aqueous layer approximately 6-7). After separation, the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed once with water, once with saturated aqueous sodium chloride, dried over sodium sulfate, filtered, concentrated and purified by silica gel chromatography on an Isco RediSep 120 g silica cartridge (0-20% ethyl acetate-heptane) to afford (3R)-1-(((cyclohexyloxy)carbonyl)oxy)ethyl 3-((tert-butoxycarbonyl)amino)-4-(5′-chloro-2′-fluoro-[1,1′-biphenyl]-4-yl)butanoate (2.07 g, 97% yield, 95.8% ee as determined on analytical supercritical fluid HPLC using a Chiralpak AD-H 5-55% MeOH with 20 mM NH4OH in CO2. LCMS (ES+) C30H37ClFNO7: Calc.: 577.2; Found: 578.3[M+H]+.

reactant | 1-chloroethyl cyclohexyl carbonate | C(OC(C)Cl)(OC1CCCCC1)=O | C9H15ClO3
reactant | Heptane TBME | CCCCCCC.CC(C)(C)OC
reactant | (R)-3-((tert-butoxycarbonyl)amino)-4-(5′-chloro-2′-fluoro-[1,1′-biphenyl]-4-yl)butanoic acid | 3.68 mmol, 1.5 g | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C21H23ClFNO4
reactant | cesium carbonate | 3.68 mmol, 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | (3R)-1-(((cyclohexyloxy)carbonyl)oxy)ethyl 3-((tert-butoxycarbonyl)amino)-4-(5′-chloro-2′-fluoro-[1,1′-biphenyl]-4-yl)butanoate | 97% yield | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)OC(C)OC(=O)OC1CCCCC1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C30H37ClFNO7
